US07071182B2
2-(4-bromophenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide
A mixture of 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine (480 mg, 2.09 mmol), (4-bromo-phenyl)-acetic acid (449 mg, 2.09 mmol), ethyldimethylpropylcarbodiimide hydrochloride (470 mg, 2.23 mmol), N-hydroxybenzotriazole (330 mg, 2.44 mmol), N-methyl morpholine (500 mg, 5.00 mmol) in 20 mL of DMF was shaken for 6 hours, concentrated under reduced pressure and the residue purified by preparative reverse-phase HPLC. 1H NMR (500 MHz, DMSO-D6) δ ppm 1.82 (m, 2 H), 1.98 (m, 2 H), 3.01 (m, 2 H), 3.50 (m, 2 H), 3.79 (m, 4 H), 4.66 (t, J=6.24 Hz, 2 H), 7.12 (m, 1 H), 7.32 (m, 2 H), 7.54 (m, 2 H), 7.72 (m, 1 H), 8.08 (s, 1 H), 8.25 (s, 1 H), 10.44 (s, 1 H); MS (DCI/NH3) m/z 429 [M+H]+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | 2.09 mmol, 480 mg | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | (4-bromo-phenyl)-acetic acid | 2.09 mmol, 449 mg | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 2.23 mmol, 470 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 2.44 mmol, 330 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 5.00 mmol, 500 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromophenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide | BrC1=CC=C(C=C1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C21H23BrN4O
